* CSD18535KTT
***********************************************************************
* (C) Copyright 2020 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer
********************************************************************************
**
*Released by: Texas Instruments Inc.
* Part: CSD18535KTT
* Date: 21JAN2020
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number:
* EVM Users Guide:
* Datasheet: SLPS589 –MARCH 2016
* Model Version: Final 1.00
**
****************************************************************************
**
*Updates:
**
*Final 1.00
* Release to Web
**
****************************************************************************
**
*Model Usage Notes:
**
* *
* CSD18535KTT - PSpice Model for use with OrCAD *
* *
**********************************************************************
* SUBCKT Definition:  1=D  2=G  3=S
.SUBCKT CSD18535KTT  1 2 3
* PARAMETER (local) DEFINITIONS SECTION
 .PARAM  ptrc1    6.00e-3  
 .PARAM  ptrc2    0.0e-5
 .PARAM  pwidthP  17.9229
 .PARAM  pwidth   {pwidthP*1e6}
 .PARAM  perimP   {2.1*pwidthP}
 .PARAM  perim    {perimP*1e6}
****** MODEL SUBCIRCUIT BEGINS HERE     ******************************
M1   10 11 12 12  NMOS	W={pwidthP} L=0.5u  PS={perimP} PD={perimP}
*M2   12 11 12 20  PMOSd W={pwidthP} L=0.05u PS={perimP} PD={perimP}
*DDx  20  10  DDx
* Note:  gate oxide capacitance included in NMOS below
xcgd	5	10	1	3	cgd
cgs	5	8	0.15e-9
*xcgs	5	8	1	3	cgs
xcds	8	10	1	3	cds
DBD	3	1	DBD {pwidthP/5.788666666666666666666666666666666666666666666667}
LGG   2  5	 2.1e-9
RGG   5 11	 0.70
RSB  12  9	 RTEMP 0.23166e-6
RSS   9  8 	 RTEMP 0.23166e-6
RSP   8  6 	 0.45e-6
LSS   6  3	 0.47e-9
RSL   6  3   0.5
RDD   7 10 	 RTEMP 1.55e-3
RDP   4  7	 0.5e-6
LDD   1  4	 0.05e-9
******************************************************************* 
.MODEL  NMOS   NMOS (
* CONTROL PARAMETERS
+ LEVEL  = 7             VERSION = 3.2         CAPMOD = 2
* DC PARAMETERS
+ NLX    = 1.74E-7       VBM    = -5           DVT0   = 2.2
+ DVT1   = 0.53          DVT2   = -0.032       U0     = 650
+ UA     = 1.4e-9        UB     = 5.0e-18      A0     = 1.0
+ AGS    = 0.0           A1     = 0.0          A2     = 1.0
+ LINT   = 0.055e-6      VOFF   = -0.75        NFACTOR= 2.0
+ ETA0   = 0.005         ETAB   = -0.07        DSUB   = 1.4
+ PCLM   = 0.25          PDIBLC1= 0.02         PDIBLC2= 0.004
+ DROUT  = 0.90          PSCBE1 = 3.0e8        PSCBE2 = 1e-6
+ PVAG   = 0.1           DELTA  = 0.0220       JS     = 0
* AC AND CAPACITANCE PARAMETERS
+ CGSO   = 1e-18       CGDO   = 1e-18        CGBO   = 1e-18
+ CJ     = 1e-18         CJSW   = 1e-18        CF     = 0
* TEMPERATURE PARAMETERS
+ TNOM   = 25            UTE    = -1.5         KT1    = -0.85
+ KT1L   = 1.0e-15       KT2    = 0.022        UA1    = 0.25e-10
+ UB1    = -0.8e-18      
* PROCE PARAMETERS
+ TOX    = 4.00e-8       XJ     = 3e-7          NCH    = 1.45e17
+ NSUB   = 1.0e16)
******************************************************************* 
.MODEL  PMOSd   PMOS (   LEVEL  = 1
+ TNOM   = 27            VTO    = -0.3          IS     = 6.0e-14
+ TOX    = 4.00e-8       NSUB   = 1.5e18		gamma	=	10
+ CJ     = 1e-18         CJSW   = 1e-18
+ CGSO   = 1e-18         CGDO   = 1e-18         CGBO   = 0  )
******************************************************************* 
.MODEL DBD D (CJO=7.50e-15 VJ=0.5 M=0.625 TNOM=25
+ FC=0.5 TT=2e-09 XTI=3.3 BV=61
+ IS=7.0e-12 N=1.06 RS=2.50e-3 TRS1=4.0e-3)
*******************************************************************
.MODEL RTEMP RES (TC1={ptrc1} TC2={ptrc2})
.MODEL DDx D (CJO=0.085e-09 VJ=0.50 M=0.45 IS=1e-12 RS=1.0 TNOM=27)
*******************************************************************
.ENDS CSD18535KTT
*$
.subckt	cgs	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+(	0	2.2151E-09	)
+(	0.5	2.2169E-09	)
+(	1	2.2144E-09	)
+(	1.5	2.2095E-09	)
+(	2	2.2051E-09	)
+(	2.5	2.2022E-09	)
+(	3	2.199E-09	)
+(	3.5	2.1968E-09	)
+(	4	2.194E-09	)
+(	4.5	2.193E-09	)
+(	5	2.1919E-09	)
+(	5.5	2.1915E-09	)
+(	6	2.191E-09	)
+(	6.5	2.1905E-09	)
+(	7	2.191E-09	)
+(	7.5	2.1936E-09	)
+(	8	2.1955E-09	)
+(	8.5	2.1976E-09	)
+(	9	2.21452E-09	)
+(	9.5	2.26193E-09	)
+(	10	2.26038E-09	)
+(	10.5	2.25856E-09	)
+(	11	2.25853E-09	)
+(	11.5	2.25737E-09	)
+(	12	2.2571E-09	)
+(	12.5	2.25575E-09	)
+(	13	2.25527E-09	)
+(	13.5	2.25478E-09	)
+(	14	2.25425E-09	)
+(	14.5	2.25369E-09	)
+(	15	2.2541E-09	)
+(	15.5	2.25349E-09	)
+(	16	2.25285E-09	)
+(	16.5	2.25219E-09	)
+(	17	2.25152E-09	)
+(	17.5	2.25183E-09	)
+(	18	2.25112E-09	)
+(	18.5	2.25041E-09	)
+(	19	2.24969E-09	)
+(	19.5	2.24995E-09	)
+(	20	2.24921E-09	)
+(	20.5	2.24845E-09	)
+(	21	2.24769E-09	)
+(	21.5	2.24791E-09	)
+(	22	2.24713E-09	)
+(	22.5	2.24634E-09	)
+(	23	2.24555E-09	)
+(	23.5	2.24574E-09	)
+(	24	2.24494E-09	)
+(	24.5	2.24413E-09	)
+(	25	2.24331E-09	)
+(	25.5	2.24347E-09	)
+(	26	2.24264E-09	)
+(	26.5	2.2418E-09	)
+(	27	2.24095E-09	)
+(	27.5	2.2411E-09	)
+(	28	2.24024E-09	)
+(	28.5	2.23937E-09	)
+(	29	2.2395E-09	)
+(	29.5	2.23862E-09	)
+(	30	2.23773E-09	)
+(	30.5	2.23684E-09	)
+(	31	2.23695E-09	)
+(	31.5	2.23605E-09	)
+(	32	2.23514E-09	)
+(	32.5	2.23424E-09	)
+(	33	2.23433E-09	)
+(	33.5	2.23341E-09	)
+(	34	2.23249E-09	)
+(	34.5	2.23257E-09	)
+(	35	2.23164E-09	)
+(	35.5	2.23071E-09	)
+(	36	2.22977E-09	)
+(	36.5	2.22983E-09	)
+(	37	2.22889E-09	)
+(	37.5	2.22795E-09	)
+(	38	2.228E-09	)
+(	38.5	2.22704E-09	)
+(	39	2.22608E-09	)
+(	39.5	2.22513E-09	)
+(	40	2.22517E-09	)
+(	40.5	2.22421E-09	)
+(	41	2.22324E-09	)
+(	41.5	2.22326E-09	)
+(	42	2.22229E-09	)
+(	42.5	2.22132E-09	)
+(	43	2.22034E-09	)
+(	43.5	2.22036E-09	)
+(	44	2.21939E-09	)
+(	44.5	2.2184E-09	)
+(	45	2.21742E-09	)
+(	45.5	2.21744E-09	)
+(	46	2.21645E-09	)
+(	46.5	2.21546E-09	)
+(	47	2.21547E-09	)
+(	47.5	2.21447E-09	)
+(	48	2.21348E-09	)
+(	48.5	2.21248E-09	)
+(	49	2.21248E-09	)
+(	49.5	2.21149E-09	)
+(	50	2.21048E-09	)
+(	50.5	2.20948E-09	)
+(	51	2.20948E-09	)
+(	51.5	2.20848E-09	)
+(	52	2.20747E-09	)
+(	52.5	2.20746E-09	)
+(	53	2.20645E-09	)
+(	53.5	2.20544E-09	)
+(	54	2.20443E-09	)
+(	54.5	2.20442E-09	)
+(	55	2.20341E-09	)
+(	55.5	2.2024E-09	)
+(	56	2.20139E-09	)
+(	56.5	2.20138E-09	)
+(	57	2.20037E-09	)
+(	57.5	2.19937E-09	)
+(	58	2.19837E-09	)
+(	58.5	2.19737E-09	)
+(	59	2.19737E-09	)
+(	59.5	2.19636E-09	)
+(	60	2.19536E-09	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgs
*$
.subckt	cgd	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	6.617E-10	)
+	(	0.5	6.126E-10	)
+	(	1	5.565E-10	)
+	(	1.5	5.2E-10	)
+	(	2	4.896E-10	)
+	(	2.5	4.583E-10	)
+	(	3	4.261E-10	)
+	(	3.5	3.982E-10	)
+	(	4	3.754E-10	)
+	(	4.5	3.553E-10	)
+	(	5	3.374E-10	)
+	(	5.5	3.212E-10	)
+	(	6	3.061E-10	)
+	(	6.5	2.918E-10	)
+	(	7	2.777E-10	)
+	(	7.5	2.631E-10	)
+	(	8	2.397E-10	)
+	(	8.5	1.791E-10	)
+	(	9	1.094E-10	)
+	(	9.5	8.295E-11	)
+	(	10	7.997E-11	)
+	(	10.5	7.756E-11	)
+	(	11	7.544E-11	)
+	(	11.5	7.351E-11	)
+	(	12	7.17E-11	)
+	(	12.5	7.001E-11	)
+	(	13	6.838E-11	)
+	(	13.5	6.681E-11	)
+	(	14	6.529E-11	)
+	(	14.5	6.382E-11	)
+	(	15	6.237E-11	)
+	(	15.5	6.095E-11	)
+	(	16	5.953E-11	)
+	(	16.5	5.813E-11	)
+	(	17	5.669E-11	)
+	(	17.5	5.517E-11	)
+	(	18	5.346E-11	)
+	(	18.5	5.153E-11	)
+	(	19	4.955E-11	)
+	(	19.5	4.767E-11	)
+	(	20	4.59E-11	)
+	(	20.5	4.432E-11	)
+	(	21	4.306E-11	)
+	(	21.5	4.213E-11	)
+	(	22	4.147E-11	)
+	(	22.5	4.095E-11	)
+	(	23	4.053E-11	)
+	(	23.5	4.018E-11	)
+	(	24	3.988E-11	)
+	(	24.5	3.961E-11	)
+	(	25	3.936E-11	)
+	(	25.5	3.913E-11	)
+	(	26	3.892E-11	)
+	(	26.5	3.871E-11	)
+	(	27	3.852E-11	)
+	(	27.5	3.833E-11	)
+	(	28	3.815E-11	)
+	(	28.5	3.798E-11	)
+	(	29	3.78E-11	)
+	(	29.5	3.763E-11	)
+	(	30	3.747E-11	)
+	(	30.5	3.73E-11	)
+	(	31	3.714E-11	)
+	(	31.5	3.698E-11	)
+	(	32	3.682E-11	)
+	(	32.5	3.666E-11	)
+	(	33	3.65E-11	)
+	(	33.5	3.634E-11	)
+	(	34	3.618E-11	)
+	(	34.5	3.602E-11	)
+	(	35	3.587E-11	)
+	(	35.5	3.571E-11	)
+	(	36	3.555E-11	)
+	(	36.5	3.539E-11	)
+	(	37	3.523E-11	)
+	(	37.5	3.507E-11	)
+	(	38	3.491E-11	)
+	(	38.5	3.475E-11	)
+	(	39	3.459E-11	)
+	(	39.5	3.442E-11	)
+	(	40	3.426E-11	)
+	(	40.5	3.409E-11	)
+	(	41	3.392E-11	)
+	(	41.5	3.376E-11	)
+	(	42	3.359E-11	)
+	(	42.5	3.341E-11	)
+	(	43	3.324E-11	)
+	(	43.5	3.307E-11	)
+	(	44	3.289E-11	)
+	(	44.5	3.271E-11	)
+	(	45	3.254E-11	)
+	(	45.5	3.235E-11	)
+	(	46	3.217E-11	)
+	(	46.5	3.199E-11	)
+	(	47	3.181E-11	)
+	(	47.5	3.162E-11	)
+	(	48	3.144E-11	)
+	(	48.5	3.125E-11	)
+	(	49	3.106E-11	)
+	(	49.5	3.087E-11	)
+	(	50	3.068E-11	)
+	(	50.5	3.049E-11	)
+	(	51	3.03E-11	)
+	(	51.5	3.011E-11	)
+	(	52	2.992E-11	)
+	(	52.5	2.973E-11	)
+	(	53	2.954E-11	)
+	(	53.5	2.935E-11	)
+	(	54	2.915E-11	)
+	(	54.5	2.897E-11	)
+	(	55	2.878E-11	)
+	(	55.5	2.859E-11	)
+	(	56	2.84E-11	)
+	(	56.5	2.822E-11	)
+	(	57	2.803E-11	)
+	(	57.5	2.785E-11	)
+	(	58	2.767E-11	)
+	(	58.5	2.749E-11	)
+	(	59	2.732E-11	)
+	(	59.5	2.715E-11	)
+	(	60	2.699E-11	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgd
*$
.subckt	cds	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	1.09283E-08	)
+	(	0.5	1.01974E-08	)
+	(	1	9.3935E-09	)
+	(	1.5	8.786E-09	)
+	(	2	8.3074E-09	)
+	(	2.5	7.8657E-09	)
+	(	3	7.4569E-09	)
+	(	3.5	7.1028E-09	)
+	(	4	6.7966E-09	)
+	(	4.5	6.5257E-09	)
+	(	5	6.2866E-09	)
+	(	5.5	6.0698E-09	)
+	(	6	5.8709E-09	)
+	(	6.5	5.6842E-09	)
+	(	7	5.4963E-09	)
+	(	7.5	5.2809E-09	)
+	(	8	5.0183E-09	)
+	(	8.5	4.3119E-09	)
+	(	9	2.9636E-09	)
+	(	9.5	2.72005E-09	)
+	(	10	2.57803E-09	)
+	(	10.5	2.44644E-09	)
+	(	11	2.33056E-09	)
+	(	11.5	2.22449E-09	)
+	(	12	2.1263E-09	)
+	(	12.5	2.03499E-09	)
+	(	13	1.94862E-09	)
+	(	13.5	1.86819E-09	)
+	(	14	1.78971E-09	)
+	(	14.5	1.71618E-09	)
+	(	15	1.64563E-09	)
+	(	15.5	1.57805E-09	)
+	(	16	1.51347E-09	)
+	(	16.5	1.45187E-09	)
+	(	17	1.39431E-09	)
+	(	17.5	1.33983E-09	)
+	(	18	1.28854E-09	)
+	(	18.5	1.24147E-09	)
+	(	19	1.19845E-09	)
+	(	19.5	1.15933E-09	)
+	(	20	1.1251E-09	)
+	(	20.5	1.09368E-09	)
+	(	21	1.06594E-09	)
+	(	21.5	1.04187E-09	)
+	(	22	1.02053E-09	)
+	(	22.5	1.00105E-09	)
+	(	23	9.8447E-10	)
+	(	23.5	9.6882E-10	)
+	(	24	9.5552E-10	)
+	(	24.5	9.4329E-10	)
+	(	25	9.3194E-10	)
+	(	25.5	9.2197E-10	)
+	(	26	9.1278E-10	)
+	(	26.5	9.0449E-10	)
+	(	27	8.9678E-10	)
+	(	27.5	8.8967E-10	)
+	(	28	8.8305E-10	)
+	(	28.5	8.7702E-10	)
+	(	29	8.713E-10	)
+	(	29.5	8.6607E-10	)
+	(	30	8.6113E-10	)
+	(	30.5	8.565E-10	)
+	(	31	8.5226E-10	)
+	(	31.5	8.4812E-10	)
+	(	32	8.4438E-10	)
+	(	32.5	8.4074E-10	)
+	(	33	8.374E-10	)
+	(	33.5	8.3426E-10	)
+	(	34	8.3122E-10	)
+	(	34.5	8.2838E-10	)
+	(	35	8.2573E-10	)
+	(	35.5	8.2319E-10	)
+	(	36	8.2075E-10	)
+	(	36.5	8.1851E-10	)
+	(	37	8.1637E-10	)
+	(	37.5	8.1433E-10	)
+	(	38	8.1239E-10	)
+	(	38.5	8.1055E-10	)
+	(	39	8.0881E-10	)
+	(	39.5	8.0718E-10	)
+	(	40	8.0564E-10	)
+	(	40.5	8.0421E-10	)
+	(	41	8.0288E-10	)
+	(	41.5	8.0154E-10	)
+	(	42	8.0031E-10	)
+	(	42.5	7.9919E-10	)
+	(	43	7.9816E-10	)
+	(	43.5	7.9713E-10	)
+	(	44	7.9611E-10	)
+	(	44.5	7.9529E-10	)
+	(	45	7.9446E-10	)
+	(	45.5	7.9365E-10	)
+	(	46	7.9293E-10	)
+	(	46.5	7.9231E-10	)
+	(	47	7.9169E-10	)
+	(	47.5	7.9118E-10	)
+	(	48	7.9066E-10	)
+	(	48.5	7.9015E-10	)
+	(	49	7.8974E-10	)
+	(	49.5	7.8943E-10	)
+	(	50	7.8912E-10	)
+	(	50.5	7.8881E-10	)
+	(	51	7.886E-10	)
+	(	51.5	7.8839E-10	)
+	(	52	7.8818E-10	)
+	(	52.5	7.8807E-10	)
+	(	53	7.8806E-10	)
+	(	53.5	7.8805E-10	)
+	(	54	7.8805E-10	)
+	(	54.5	7.8813E-10	)
+	(	55	7.8822E-10	)
+	(	55.5	7.8831E-10	)
+	(	56	7.885E-10	)
+	(	56.5	7.8868E-10	)
+	(	57	7.8887E-10	)
+	(	57.5	7.8915E-10	)
+	(	58	7.8943E-10	)
+	(	58.5	7.8981E-10	)
+	(	59	7.9018E-10	)
+	(	59.5	7.9055E-10	)
+	(	60	7.9091E-10	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cds
*$


